US07030139B2
2-(4-Ethoxybenzoyl)-N,N-diethyl-1-isopentyl-1H-benzimidazole-5-carbothioamide
Lawesson's reagent (0.0963 g, 0.238 mmol) was added to a stirred solution of 2-(4-ethoxybenzoyl)-N,N-diethyl-1-isopentyl-1H-benzimidazole-5-carboxamide (0.0451 g, 0.104 mmol) in dry toluene (5 mL) under an atmosphere of N2. The reaction was heated to reflux for 0.5 h, and then cooled to room temperature and concentrated. The residue was purified by column chromatography (3:1 Hexanes:EtOAc) to provide the title compound (0.0137 g, 29%) as a glassy yellow solid. 1H-NMR (CD3OD): δ 8.19 (d, J=9.2 Hz, 2H), 7.67 (d, J=8.4 Hz, 1H), 7.64 (s, 1H), 7.36 (d, J=8.4 Hz, 1H), 7.06 (d, J=9.2 Hz, 21), 4.55 (dd, J=8.4 Hz, J=7.2 Hz, 2H), 4.17 (q, J=7.6 Hz, 4H), 3.53 (q, J=7.6 Hz, 2H), 1.80–1.71 (m, 2H), 1.71–1.58 (m, 1H), 1.44 (t, J=7.6 Hz, 3H), 1.41 (t, J=7.6 Hz, 3H), 1.17 (t, J=7.6 Hz, 3H), 0.97 (d, J=6.4 Hz, 6H). 13C-NMR (CD3OD): δ 201.23, 185.95, 165.57, 149.55, 141.87, 141.18, 136.28, 134.64, 130.31, 124.56, 118.20, 115.41, 112.36, 65.15, 47.48, 44.89, 40.18, 27.20, 22.77, 14.95, 14.07, 11.44. MS (ESI) (M+H)+=452. Anal. Calcd for C26H33N3O2S.0.3H2O: C, 68.33; H, 7.41; N, 9.19. Found: C, 68.44; H, 7.52; N, 9.01.

reactant | Lawesson's reagent | 0.238 mmol, 0.0963 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2-(4-ethoxybenzoyl)-N,N-diethyl-1-isopentyl-1H-benzimidazole-5-carboxamide | 0.104 mmol, 0.0451 g | C(C)OC1=CC=C(C(=O)C2=NC3=C(N2CCC(C)C)C=CC(=C3)C(=O)N(CC)CC)C=C1 | C26H33N3O3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Ethoxybenzoyl)-N,N-diethyl-1-isopentyl-1H-benzimidazole-5-carbothioamide | 0.0137 g, 29% | C(C)OC1=CC=C(C(=O)C2=NC3=C(N2CCC(C)C)C=CC(=C3)C(N(CC)CC)=S)C=C1 | C26H33N3O2S
